US04405617
A mixture of 7-[2-tert-butoxycarbonylmethoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-[1-(2-propynyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid (syn isomer)(3.5 g), formic acid (35 ml) and conc. hydrochloric acid (1.0 ml) was stirred for an hour at room temperature. The reaction mixture was evaporated and the residue was pulverized with diethyl ether and dried. Thus obtained product (3.2 g) was dissolved in an aqueous solution of sodium bicarbonate and ethyl acetate was added thereto. The mixture was adjusted to pH 1 with 6 N hydrochloric acid and then filtered. The ethyl acetate layer was separated from the filtrate, washed with a saturated aqueous solution of sodium chloride, treated with activated charcoal, dried over magnesium sulfate and then evaporated. The residue was pulverized with diethyl ether and dried to give a crude product (2.0 g). The product was dissolved in an aqueous solution of sodium bicarbonate and the solution was acidified with 6 N hydrochloric acid. The precipitates were collected by filtration, washed with water and then dried to give 7-[2-carboxymethoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-[1-(2-propynyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (1.0 g), mp. 160° to 165° C. (dec.).

reactant | 7-[2-tert-butoxycarbonylmethoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-[1-(2-propynyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid | 3.5 g | C(C)(C)(C)OC(=O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC#C)C(=O)O)C1=O)C1=NSC(=N1)N | C22H24N10O7S3
reactant | formic acid | 35 ml | C(=O)O | CH2O2
reactant | hydrochloric acid | 1.0 ml | Cl | ClH
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 7-[2-carboxymethoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-[1-(2-propynyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid | 1.0 g | C(=O)(O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC#C)C(=O)O)C1=O)C1=NSC(=N1)N | C18H16N10O7S3
